US05051423
1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]amino]-3-phenoxy-2-propanol
To a solution of 5.5 g (12.4 mmol) 1-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-phenoxy-2-propanol in 25 mL methanol is suspended 1.0 g 10% palladium on carbon. The reaction mixture is hydrogenated at 50 psi in a Parr Hydrogenator. Follow the progress of the reaction by thin-layer chromatography on silica gel (methylene chloride:methanol, 9:1). At the completion of the reaction, thecatalyst is filtered and the solvents are removed in vacuo. The isolated oil is taken up in methylene chloride, dried over anhydrous Na2SO4, filtered and the solvents are removed to give the title compound.

reactant | 1-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-phenoxy-2-propanol | 12.4 mmol, 5.5 g | N1(C=NC=C1)C1=CC=C(OCCN(CC(COC2=CC=CC=C2)O)CC2=CC=CC=C2)C=C1 | C27H29N3O3
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]amino]-3-phenoxy-2-propanol | N1(C=NC=C1)C1=CC=C(OCCNCC(COC2=CC=CC=C2)O)C=C1 | C20H23N3O3
